US07982071B2
Addition of acetonitrile to 3-(2-hydroxypentyloxy)benzaldehyde gave 3-hydroxy-3-(3-(2-hydroxypentyloxy)phenyl)propanenitrile as a yellow oil. Yield (0.25 g, 12%): 1H NMR (400 MHz, CDCl3) δ 7.27-7.34 (m, 1H), 6.94-7.00 (m, 2H), 6.88 (dd, J=8.0, 2.0 Hz, 1H), 5.01 (t, J=5.6 Hz, 1H), 3.96-4.06 (m, 2H), 3.83 (dd, J=8.8, 7.6 Hz, 1H), 2.76 (d, J=6.0 Hz, 2H), 1.52-1.60 (m, 2H), 1.40-1.49 (m, 2H), 0.97 (t, J=6.8 Hz, 3H).

reactant | 3-(2-hydroxypentyloxy)benzaldehyde | OC(COC=1C=C(C=O)C=CC1)CCC | C12H16O3
reactant | acetonitrile | C(C)#N | C2H3N
product | 3-hydroxy-3-(3-(2-hydroxypentyloxy)phenyl)propanenitrile | OC(CC#N)C1=CC(=CC=C1)OCC(CCC)O | C14H19NO3
